US04542145
3-Chloro-N-[4-(1H-1,2,4-triazol-1-yl)-butyl]benzo[b]thiophene-2-carboxamide
A mixture of about 2.13 g of 1H-1,2,4-triazole-1-butanamine, dihydrochloride, about 70 ml of methylene chloride, about 30 ml of 1N sodium hydroxide and about 2.3 g of 3-chlorobenzo[b]thiophene carbonyl chloride was stirred at room temperature overnight. About five ml of 1N sodium hydroxide and about 50 ml of methylene chloride were added. The organic layer was separated, washed twice with water, dried and concentrated to an oil. The oil was crystallized from ether, giving about 2.8 g of the desired product as a yellow solid, mp 103°-105° C.

reactant | 1H-1,2,4-triazole-1-butanamine, dihydrochloride | about 2.13 g | Cl.Cl.N1(N=CN=C1)CCCCN
reactant | sodium hydroxide | 1N, about 30 ml | [OH-].[Na+]
reactant | 3-chlorobenzo[b]thiophene carbonyl chloride | about 2.3 g | ClC=1C2=C(SC1C(=O)Cl)C=CC=C2 | C9H4Cl2OS
reactant | sodium hydroxide | 1N, five ml | [OH-].[Na+]
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 70 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[4-(1H-1,2,4-triazol-1-yl)-butyl]benzo[b]thiophene-2-carboxamide | about 2.8 g | ClC=1C2=C(SC1C(=O)NCCCCN1N=CN=C1)C=CC=C2 | C15H15ClN4OS
